US08193236B2
3-(5-Dimethylaminomethyl-benzofuran-3-yl)-4-(1H-indol-3-yl)-pyrrole-2,5-dione
To a solution of 2-(5-dimethylaminomethyl-benzofuran-3-yl)-acetamide (91 mg, 0.39 mmol) and (1H-indol-3-yl)-oxo-acetic acid methyl ester (119 mg, 0.59 mmol) in anhydrous THF (5.0 mL) is added dropwise a 1 M solution of t-BuOK in THF (1.6 mL) under an argon atmosphere at 0° C. The resulting deep red reaction mixture is stirred for 5 min. at 0° C. and 30 min. at room temperature followed by partitioning between brine and EtOAc. The layers are separated and the aqueous layer is extracted twice with EtOAc. The combined organic layers are washed with brine, dried over Na2SO4, filtered and concentrated at reduced pressure to afford an orange solid. Purification by flash column chromatography (silica gel, EtOAc/acetic acid/water 7:1:1) affords the title compound as an orange solid (91.4 mg, 0.237 mmol, 63%). 1H NMR (400 MHz, DMSO-d6, 298 K): δ=11.90 (bs, 1H), 11.06 (bs, 1H), 8.28 (s, 1H), 7.89 (s, 1H), 7.47 (d, J=8.4 Hz, 1H), 7.33 (d, J=8.2 Hz, 1H), 7.06 (d, J=8.4 Hz, 1H), 6.94 (t, J=8.2 Hz, 1H), 6.82 (d, J=8.1 Hz, 1H), 6.63 (d, J=8.2 Hz, 1H), 6.60 (s,1H), 2.98 (s, 2H), 1.69 (s, 6H). MS (ES+): 386 (M(C23H19N3O3)+H)+.

reactant | 2-(5-dimethylaminomethyl-benzofuran-3-yl)-acetamide | 0.39 mmol, 91 mg | CN(C)CC=1C=CC2=C(C(=CO2)CC(=O)N)C1 | C13H16N2O2
reactant | (1H-indol-3-yl)-oxo-acetic acid methyl ester | 0.59 mmol, 119 mg | COC(C(=O)C1=CNC2=CC=CC=C12)=O | C11H9NO3
reactant | t-BuOK | CC(C)(C)[O-].[K+]
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
solvent | THF | 1.6 mL | C1CCOC1 | C4H8O
product | 3-(5-Dimethylaminomethyl-benzofuran-3-yl)-4-(1H-indol-3-yl)-pyrrole-2,5-dione | 0.237 mmol, 91.4 mg, 63% | CN(C)CC=1C=CC2=C(C(=CO2)C=2C(NC(C2C2=CNC3=CC=CC=C23)=O)=O)C1 | C23H19N3O3
